US06204249B1
3-Bromo-4,5-dichloro-1,2-phenylenediamine
2-Bromo-3,4dichloro-6-nitroaniline (48.3 g, 168.9 mmol), iron powder (30.0 g, 537.2 mmol) and ethanol (1 L) were combined and the resulting suspension was cooled to 0° C. Concentrated hydrochloric acid (37%, 193.0 mL, 2.36 mol) was then added dropwise over 15 min by means of an addition funnel. The resulting mixture was heated to reflux for 1 h, after which time it was allowed to cool to room temperature. The mixture was diluted with water (1.5 L) and the pH was adjusted to approximately 8 by the addition of sodium carbonate. The product was extracted with ethyl acetate (1 L), dried over magnesium sulfate, filtered and the solvents were removed under reduced pressure using a rotary evaporator. The product was crystallized from a methanol/water mixture to afford 34.21 g (79%) of a brown solid; m.p. 128-129° C. Anal. Calcd for C6H5BrCl2N2: C, 28.16; H, 1.97; N, 10.95. Found: C, 28.29; H, 1.96; N, 10.79.

reactant | 2-Bromo-3,4dichloro-6-nitroaniline | 168.9 mmol, 48.3 g | BrC1=C(N)C(=CC(=C1Cl)Cl)[N+](=O)[O-] | C6H3BrCl2N2O2
reactant | ethanol | 1 L | C(C)O | C2H6O
reactant | hydrochloric acid | 2.36 mol, 193.0 mL | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 1.5 L | O | H2O
catalyst | iron | 537.2 mmol, 30.0 g | [Fe] | Fe
product | 3-Bromo-4,5-dichloro-1,2-phenylenediamine | 34.21 g, 79% | BrC=1C(=C(C=C(C1Cl)Cl)N)N | C6H5BrCl2N2
